US04640892
75.7 g of hydrochloric salt of parachlorophenylhydrazine was dissolved into 350 ml of water. 37.2 g of pyruvic acid was added into the solution. After stirring for 30 minutes at 70° C. while heating, and then cooling, precipitated crystals were filtered out, washed, and dried. These crystals were recrystallized from isopropyl acohol to obtain 57 g of 2-(p-chlorophenylhydrazono)propionic acid having a melting point of 196° to 197° C. (decomposed).

reactant | parachlorophenylhydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
reactant | pyruvic acid | 37.2 g | C(C(=O)C)(=O)O | C3H4O3
solvent | water | 350 ml | O | H2O
product | 2-(p-chlorophenylhydrazono)propionic acid | 57 g | ClC1=CC=C(C=C1)NN=C(C(=O)O)C | C9H9ClN2O2
